US04608374
11-{1-[2-(4-Hydroxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
To 200 ml isopropanol was added 11-{1-[2-(4-benzyloxyphenyl)-ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (2.8 g, 0.006 mole) and 10% Pd/C (3.0 g). After shaking on a Parr apparatus under 50 psi of hydrogen for twenty-four hours, the solution was filtered and evaporated to a solid (2.2 g, m.p. 77° C.).

reactant | 11-{1-[2-(4-benzyloxyphenyl)-ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.006 mole, 2.8 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C32H34N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 3.0 g | [Pd] | Pd
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 11-{1-[2-(4-Hydroxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | OC1=CC=C(C=C1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C25H28N2O2
